US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[(methyl)-[1-(4-pyridinyl)piperidin-4-ylmethyl]amino]benzamide
Using a similar procedure to that described in Example 27, N-(5-chloropyridin-2-yl)-2-[1-(4-pyridinyl)piperidin-4-ylmethyl]aminobenzamide (100 mg, 0.237 mmol) and paraformaldehyde (20 mg, 0.238 mmol) afforded, after purification by column chromatography (SiO2: 2 to 4% [2 N ammonia in methanol]:chloroform), 25 mg (24%) of the title compound.

reactant | N-(5-chloropyridin-2-yl)-2-[1-(4-pyridinyl)piperidin-4-ylmethyl]aminobenzamide | 0.237 mmol, 100 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCN(CC1)C1=CC=NC=C1)=O | C23H24ClN5O
reactant | paraformaldehyde | 0.238 mmol, 20 mg | C=O | CH2O
product | N-(5-Chloropyridin-2-yl)-2-[(methyl)-[1-(4-pyridinyl)piperidin-4-ylmethyl]amino]benzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)N(CC1CCN(CC1)C1=CC=NC=C1)C)=O | C24H26ClN5O
